US07534894B2
Boron tribromide (22.0 mL of a 1 M solution in methylene chloride; 22.0 mmol) was added under nitrogen dropwise over 30 minutes to a solution of N-benzyl-N-[(3′-bromo-4′-methoxy-1,1′-biphenyl-4-yl)methyl]-1-methyl-1H-indole-3-carboxamide (4.3 g, 7.97 mmol), prepared in the previous step, in 150 mL of methylene chloride at dry ice-acetone temperature. After the addition the dry ice-acetone bath was replaced with an ice bath and the stirring continued for 3 h. At ice bath temperature water (100 mL) was added dropwise. The aqueous layer was separated and extracted two times with methylene chloride. The extracts were combined, extracted with saturated NaCl, dried (MgSO4) and the solvent removed under reduced pressure to give N-benzyl-N-[(3′-bromo-4′-hydroxy-1,1′-biphenyl-4-yl)methyl]-1-methyl-1H-indole-3-carboxamide (3.3 g, 76%) as a white solid, MS (ESI) m/z 525 [M+H]+. Elemental Analysis for C30H25BrN2O2: Calc'd: C, 68.58; H, 4.80; N, 5.33; Found: C, 67.54; H, 4.92; N, 5.17.

reactant | Boron tribromide | B(Br)(Br)Br | BBr3
reactant | N-benzyl-N-[(3′-bromo-4′-methoxy-1,1′-biphenyl-4-yl)methyl]-1-methyl-1H-indole-3-carboxamide | 7.97 mmol, 4.3 g | C(C1=CC=CC=C1)N(C(=O)C1=CN(C2=CC=CC=C12)C)CC1=CC=C(C=C1)C1=CC(=C(C=C1)OC)Br | C31H27BrN2O2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | water | 100 mL | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | N-benzyl-N-[(3′-bromo-4′-hydroxy-1,1′-biphenyl-4-yl)methyl]-1-methyl-1H-indole-3-carboxamide | 3.3 g, 76% | C(C1=CC=CC=C1)N(C(=O)C1=CN(C2=CC=CC=C12)C)CC1=CC=C(C=C1)C1=CC(=C(C=C1)O)Br | C30H25BrN2O2
